US04954508
4,7-Dihydro-1,6-dimethyl-3-(2-methylpropyl)-4-(2-nitrophenyl)-1H-pyrazolo[3,4-b]pyridin-5-carboxylic acid 2-methoxyethyl ester.
Starting from 1-methyl-3-(2-methylpropyl)-5-pyrazolamine and 2-methoxyethyl-2-(2-nitrobenzyliden)acetoacetate.

reactant | 1-methyl-3-(2-methylpropyl)-5-pyrazolamine | CN1N=C(C=C1N)CC(C)C | C8H15N3
reactant | 2-methoxyethyl-2-(2-nitrobenzyliden)acetoacetate | COCCOC(C(C(=O)C)=CC1=C(C=CC=C1)[N+](=O)[O-])=O | C14H15NO6
product | 4,7-Dihydro-1,6-dimethyl-3-(2-methylpropyl)-4-(2-nitrophenyl)-1H-pyrazolo[3,4-b]pyridin-5-carboxylic acid 2-methoxyethyl ester | COCCOC(=O)C=1C(C2=C(NC1C)N(N=C2CC(C)C)C)C2=C(C=CC=C2)[N+](=O)[O-] | C22H28N4O5
